US07795236B2
2-Benzyloxybiphenyl-4-ylmethylamine
To a suspension of lithium alminiumhydride (0.399 g) in tetrahydrofuran (45 mL) was added dropwise a solution of 3-benzyloxy-4-phenylbenzonitrile (2.00 g) in tetrahydrofuran (25 mL) at room temperature, and the resulting mixture was stirred at 60° C. for 3 hours. The reaction mixture was cooled to room temperature and then quenched by sequential addition of water (0.399 mL), 15% aqueous sodium hydroxide (0.399 mL) and water (0.399 mL). After addition of anhydrous sodium sulfate (20 g), the mixture was stirred at room temperature for 4 hours and the insoluble material was filtered out. The filtrate was concentrated under reduced pressure to give the title compound (1.97 g).

reactant | lithium | [Li] | Li
reactant | 3-benzyloxy-4-phenylbenzonitrile | 2.00 g | C(C1=CC=CC=C1)OC=1C=C(C#N)C=CC1C1=CC=CC=C1 | C20H15NO
solvent | tetrahydrofuran | 45 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 2-Benzyloxybiphenyl-4-ylmethylamine | 1.97 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)CN)C1=CC=CC=C1 | C20H19NO
